US09340538B2
(3S)-4-((6-(2-chloro-4-fluorophenyl)-5-(ethoxycarbonyl)-2-(thiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)-6,6-dimethylmorpholine-3-carboxylic acid
Ethyl 6-(bromomethyl)-4-(2-chloro-4-fluorophenyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate (0.26 g, 0.51 mmol) was reacted with (S)-6,6-dimethylmorpholine-3-carboxylic acid hydrochloride (0.1 g, 0.51 mmol) according to the procedure described in Example 1, Step C to give the title compound as a yellow solid (0.16 g, 59%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 6-(bromomethyl)-4-(2-chloro-4-fluorophenyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 0.51 mmol, 0.26 g | BrCC1=C(C(N=C(N1)C=1SC=CN1)C1=C(C=C(C=C1)F)Cl)C(=O)OCC | C17H14BrClFN3O2S
reactant | (S)-6,6-dimethylmorpholine-3-carboxylic acid hydrochloride | 0.51 mmol, 0.1 g | Cl.CC1(OC[C@H](NC1)C(=O)O)C
product | (3S)-4-((6-(2-chloro-4-fluorophenyl)-5-(ethoxycarbonyl)-2-(thiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)-6,6-dimethylmorpholine-3-carboxylic acid | 0.16 g, 59% | ClC1=C(C=CC(=C1)F)C1C(=C(NC(=N1)C=1SC=CN1)CN1[C@@H](COC(C1)(C)C)C(=O)O)C(=O)OCC | C24H26ClFN4O5S
